US06911468B2
(2) Sodium (2R)-2-([4-[1-(4-pentylphenyl)-5-methyl-1H-pyrrol-2-yl]phenyl]oxy)-3-phenylpropanoate
To a solution of (2R)-2-([4-[1-(4-pentylphenyl)-5-methyl-1H-pyrrol-2-yl]phenyl]oxy)-3-phenylpropanoic acid (621 mg, 1.33 mmol) in ethanol (10 ml) was added 1N sodium hydroxide-ethanol solution (1.3 ml, 1.3 mmol) and the mixture was concentrated. To the residue was added hexane to give the object compound as a solid. 460 mg, (yield: 71%)

reactant | (2R)-2-([4-[1-(4-pentylphenyl)-5-methyl-1H-pyrrol-2-yl]phenyl]oxy)-3-phenylpropanoic acid | 1.33 mmol, 621 mg | C(CCCC)C1=CC=C(C=C1)N1C(=CC=C1C)C1=CC=C(C=C1)O[C@@H](C(=O)O)CC1=CC=CC=C1 | C31H33NO3
reactant | sodium hydroxide ethanol | 1.3 mmol, 1N, 1.3 ml | [OH-].[Na+].C(C)O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | Sodium (2R)-2-([4-[1-(4-pentylphenyl)-5-methyl-1H-pyrrol-2-yl]phenyl]oxy)-3-phenylpropanoate | yield: 71% | C(CCCC)C1=CC=C(C=C1)N1C(=CC=C1C)C1=CC=C(C=C1)O[C@@H](C(=O)[O-])CC1=CC=CC=C1.[Na+] | InChI=1S/C31H33NO3.Na/c1-3-4-6-9-24-13-17-27(18-14-24)32-23(2)12-21-29(32)26-15-19-28(20-16-26)35-30(31(33)34)22-25-10-7-5-8-11-25;/h5,7-8,10-21,30H,3-4,6,9,22H2,1-2H3,(H,33,34);/q;+1/p-1/t30-;/m1./s1
